* C:\Users\shepl\OneDrive\Documents\7-MIL\TerraGator\Distance-Sensor-Board\power_selection_test.asc
* Generated by LTspice 24.1.10 for Windows.
M1 USB_VCC N001 +5 +5 PMOS
X§U1 +5 3v3 +5 0 N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V1 NC_01 0 5
V2 3v3 0 3.3
V3 USB_VCC 0 5.5
R1 +5 v0 100k
R2 v0 0 100k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\shepl\AppData\Local\LTspice\lib\cmp\standard.mos
.op
* To test: run with +5 connected. Should see ~2.5V on output. This voltage is from +5.\nThen, disconnect +5 and run. Still see ~2.7V at output \n(used 5.5V for USB_VCC so difference was distinguishable). This voltage is from the USB_VCC.
.lib UniversalOpAmp2.lib
.backanno
.end
